US04855407
Methylbenzhydrylamine Resin
15.5 g of p-toluoyl chloride and 13.3 g of aluminum chloride were mixed in 250 ml of dichloroethane in a dropping funnel. The solution was added dropwise to the cooled, stirred suspension of the resin beads over a period of about 40 min., care being taken not to allow the reaction to warm up above 5° C. The stirring was continued for 4 hours at room temperature when the resin was washed sequentially with isopropanol, isopropanol-water (1:1 mixture), isopropanol and dried to give 53.8 g of p-toluoyl resin. This resin was then mixed with 168 g of ammonium formate, 201 ml of formamide, 134 ml of formic acid and 350 ml of nitrobenzene. The mixture was gradually heated up to 165°-170° C. under reflux and maintained for 1 day during which time about 115 ml of the aqueous phase was collected into a Dean-Stark trap. The resin was washed and dried as above to yield 55.5 g of N-formyl methylbenzhydrylamine resin. The product was hydrolyzed in a mixture of 300 ml each of 12N HCl and isopropanol under reflux for 3 hr. Washing and drying the resulting resin provided 54.9 g of the hydrochloride form of methylbenzhydrylamine resin. It showed a very strong positive reaction to ninhydrin reagent and incorporated 0.4 mmol of Boc-Ala-OH when neutralized and coupled with Boc-Ala-OH in the presence of dicyclohexylcarbodiimide.

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | Boc-Ala-OH | 0.4 mmol | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | HCl | 12N, 300 ml | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | Methylbenzhydrylamine | CNC(C1=CC=CC=C1)C1=CC=CC=C1 | C14H15N
